### ISSUE TITLE
trace.aesop.finalTree does not work on success

### ISSUE THREAD

**Issue by JLimperg** [JLimperg/aesop#42]
```
import Aesop

set_option trace.aesop.finalTree true

example : False := by
  aesop -- prints tree

example : True := by
  aesop -- should print tree but does not
```

**Comment by JLimperg** [comment]
Fixed by referenced commit.
